Transmission Line Circuit
**************************************************************
* Tier No.:	1                                           
* Description:  Test of Xyce transmission line model using 
*               lossless circuit configuration.  
* Input:  5V Pulse Source
* Output: Capacitor voltage
* Circuit Elements: input and load resistances with matched
*			  impedances
* Analysis:
*	The circuit contains a pulse voltage source (VIN), with a 
*	50 ohm (RIN) output impedance, connected to a 50 ohm 
*	transmission line (TLINE) which is terminated in a 50 ohm 
*	(RL) matched load.  The pulse goes from 0V to 5V with no delay,
*	and has a pulse width of 25ns.  The transmission line has a 
*	10ns delay. Any change in the input voltage, V(2), of TLINE  
*       should occur 10N later at the output (node 3).  
*	Therefore, the input voltage rises from 0V to 2.5V in 1ns and 
*	remains at 2.5V for 5ns.  The output voltage V(3), does the  
*	same as V(2) except that it is delayed by 10ns. 
*
*	Note: V(2) is 2.5V due to the voltage drop across the 50 ohm
*	RIN resistor. 
*
* Lead current test for TRA. Both TLINEs use a common source,
* but have their terminals "reversed".  So, the lead currents for
* terminal 1 of TLINE1 should be the same as the lead currents for
* terminal 2 of TLINE2. Similarly, the lead currents for terminal 2 
* of TLINE1 should be the same as the lead currents for terminal 1 
* of TLINE2. 
*
* The various vmon's have their terminals arranged so that their
* sign matches the expected sign of the TLINE lead currents.
*************************************************************** 
VIN 1 0 PULSE(0 5 0 0.1N 0.1N 5N 25N)

* current flows into terminal 1, and out of terminal 2, of TLINE1
RIN1 1 2 50
* positive current flows from node2 to node2a 
* (e.g., into terminal 1 of TLINE1)
Vmonin1 2 2a 0
TLINE1 2a 0 3a 0 Z0=50 TD=10N
* negative current flows from node 3a to node 3 
* (e.g., out of terminal 2 of TLINE1)
vmonout1 3 3a 0 
RL1 3 0 50

* current flows into terminal 2, and out of terminal 1, of TLINE2
RIN2 1 4 50
* positive current flows from node4 to node4a 
* (e.g., into terminal 2 of TLINE2)
Vmonin2 4 4a 0
TLINE2 5a 0 4a 0 Z0=50 TD=10N
* negative current flows from node 5a to node 5 
* (e.g., out of terminal 2 of TLINE1)
vmonout2 5 5a 0
RL2 5 0 50

.options timeint method=gear
.options nonlin-tran rhstol=1.0e-7
.TRAN 0.25N 50N

*COMP {i1(TLINE1)-i2(TLINE2)} abstol=1.0e-6 zerotol=1.0e-16
*COMP {i2(TLINE1)-i1(TLINE2)} abstol=1.0e-6 zerotol=1.0e-16
*COMP {i(vmonin1)-i1(tline1)} abstol=1.0e-6 zerotol=1.0e-16
*COMP {i(vmonout1)-i2(tline1)} abstol=1.0e-6 zerotol=1.0e-16
*COMP {i(vmonin2)-i2(tline2)} abstol=1.0e-6 zerotol=1.0e-16
*COMP {i(vmonout2)-i1(tline2)} abstol=1.0e-6 zerotol=1.0e-16

.PRINT TRAN {i1(TLINE1)-i2(TLINE2)} {i2(TLINE1)-i1(TLINE2)}
+ {i(Vmonin1)-i1(tline1)} {I(Vmonin2)-i2(tline2)}
+ {i(Vmonout1)-i2(tline1)} {I(Vmonout2)-i1(tline2)} 

.END
